US04977175
3-(N-Methylamino)-4-nitrotoluene (7.95 g) was catalytically reduced in a solution in 200 ml of methanol using 1.0 g of 10% palladium carbon as a catalyst. After the catalyst was filtered off, the reaction solution was concentrated under reduced pressure to give 6.60 g (101%) of 1-amino-4-methyl-2-(N-methylamino)benzene.

reactant | 3-(N-Methylamino)-4-nitrotoluene | 7.95 g | CNC=1C=C(C=CC1[N+](=O)[O-])C | C8H10N2O2
solvent | methanol | 200 ml, 1.0 g | CO | CH4O
catalyst | palladium carbon | [C].[Pd]
product | 1-amino-4-methyl-2-(N-methylamino)benzene | 6.60 g, 101% | NC1=C(C=C(C=C1)C)NC | C8H12N2
